US06465504B1
4-[3,5-Bis(2-hydroxyphenyl)-[1,2,4]triazol-1-ylmethyl]benzonitrile
5.0 g of 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one, 3.9 g of 4-cyanobenzylhydrazine hydrochloride and 6 ml of triethylamine are boiled under reflux for 3 h in 50 ml of ethanol. The mixture is cooled, poured onto water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated on a rotary evaporator. The residue is crystallized from ethanol/water. After drying, 4-[3,5-bis(2-hydroxyphenyl)-[1,2,4]triazol-1-ylmethyl]benzonitrile remains as colorless crystals of m.p. 147-149° C.

reactant | 2-(2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | 5.0 g | OC1=C(C=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
reactant | 4-cyanobenzylhydrazine hydrochloride | 3.9 g | Cl.C(#N)C1=CC=C(CNN)C=C1
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[3,5-Bis(2-hydroxyphenyl)-[1,2,4]triazol-1-ylmethyl]benzonitrile | OC1=C(C=CC=C1)C1=NN(C(=N1)C1=C(C=CC=C1)O)CC1=CC=C(C#N)C=C1 | C22H16N4O2
